US07728023B2
ethyl 4-[7-bromo-1-[2-(ethyloxy)-2-oxoethyl]-2-(methylthio)-1H-indol-3-yl]butanoate
To a chloroform (0.8 mL) solution of dimethyl disulfide (30 mg), sulfuryl chloride (34 mg) was added at −15° C. and the mixture was stirred at −5° C. for 1.5 hours. To the reaction mixture, a chloroform (0.5 mL) solution of the compound prepared in Example 43, namely, ethyl 4-{7-bromo-1-[2-(ethyloxy)-2-oxoethyl]-1H-indol-3-yl}butanoate (100 mg) was added at −78° C., followed by stirring at room temperature for 3 hours. To the reaction mixture, an aqueous saturated sodium hydrogen carbonate solution was added under ice cooling, followed by extraction with ethyl acetate. The organic layer was washed in turn with an aqueous saturated sodium hydrogen carbonate solution, water and saturated saline, dried over anhydrous magnesium sulfate and then concentrated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=95:5→91:9) to obtain the titled compound having the following physical properties (70 mg).

reactant | dimethyl disulfide | 30 mg | CSSC | C2H6S2
reactant | sulfuryl chloride | 34 mg | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ethyl 4-{7-bromo-1-[2-(ethyloxy)-2-oxoethyl]-1H-indol-3-yl}butanoate | 100 mg | BrC=1C=CC=C2C(=CN(C12)CC(=O)OCC)CCCC(=O)OCC | C18H22BrNO4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.8 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-[7-bromo-1-[2-(ethyloxy)-2-oxoethyl]-2-(methylthio)-1H-indol-3-yl]butanoate | BrC=1C=CC=C2C(=C(N(C12)CC(=O)OCC)SC)CCCC(=O)OCC | C19H24BrNO4S
